* ==========================================================================
* @part: LM3914
* @family: special
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: modified BSD (Holger Vogt)
* @added-by: nav
* ==========================================================================
* LM3914 Bar/dot display driver
* V3.1
* Based on data sheet from https://www.ti.com/lit/ds/symlink/lm3914.pdf
* Copyright: Holger Vogt
* Modified BSD license
* adapted for ngspice

* Model development started by by Geoff Western.
* (see https://www.electro-tech-online.com/threads/simulation-model-for-the-lm3915-logarithmic-bar-dot-display-driver.134305/)

* D1 V- V+ Rlo Sig Rhi Ref Adj Mode D10 D9 D8 D7 D6 D5 D4 D3 D2
.subckt lm3914  L1 V- V+ Rlo Sig Rhi Ref Adj Mode L10 L9 L8 L7 L6 L5 L4 L3 L2

* see Fig. 14 of data sheet: B source drives base of bip devices, 50 Ohm series
* resistance in emitter line (output see Fig. 13 of data sheet),
* so to avoid any current source at an output terminal (may lead to totally unrealistic
* results or errors if e.g. terminal is left open).
* Comparator C1 (Fig. 14) is integrated into the B source.
* Comparator C2 is extra.
* -12u at source B1 are addding approx. 120u according to manual p. 10 last section.
* This current will start only when D2 is switched on.
* node Mode: reference against V+ − 100mV:
* V+ for Bar mode.
* 200mV below V+ (or open circuit) for dot mode.
* Thermal modelling has been added

* missing: true dynamic behaviour (not detailed in data sheet)
* missing: smooth 1 mV overlap between LEDs

B1 LB1 V- I=i(Vmref)*(V(dvin)>0)*((V(dvin)<(V(dv)+1m))||(V(Mode)+0.1>=V(v+))) - 12u * (V(dvin) > V(dv))
Q1 L1 LB1 LE1 QP
R1 LE1 V- 50
B2 LB2 V- I=i(Vmref)*(V(dvin)>V(dv))*((V(dvin)<2*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q2 L2 LB2 LE2 QP
R2 LE2 V- 50
B3 LB3 V- I=i(Vmref)*(V(dvin)>2*V(dv))*((V(dvin)<3*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q3 L3 LB3 LE3 QP
R3 LE3 V- 50
B4 LB4 V- I=i(Vmref)*(V(dvin)>3*V(dv))*((V(dvin)<4*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q4 L4 LB4 LE4 QP
R4 LE4 V- 50
B5 LB5 V- I=i(Vmref)*(V(dvin)>4*V(dv))*((V(dvin)<5*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q5 L5 LB5 LE5 QP
R5 LE5 V- 50
B6 LB6 V- I=i(Vmref)*(V(dvin)>5*V(dv))*((V(dvin)<6*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q6 L6 LB6 LE6 QP
R6 LE6 V- 50
B7 LB7 V- I=i(Vmref)*(V(dvin)>6*V(dv))*((V(dvin)<7*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q7 L7 LB7 LE7 QP
R7 LE7 V- 50
B8 LB8 V- I=i(Vmref)*(V(dvin)>7*V(dv))*((V(dvin)<8*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q8 L8 LB8 LE8 QP
R8 LE8 V- 50
B9 LB9 V- I=i(Vmref)*(V(dvin)>8*V(dv))*((V(dvin)<9*V(dv)+1m)||(V(Mode)+0.1>=V(v+)))
Q9 L9 LB9 LE9 QP
R9 LE9 V- 50
B10 LB10 V- I=i(Vmref)*(V(dvin)>9*V(dv))
Q10 L10 LB10 LE10 QP
R10 LE10 V- 50

* input circuit, p. 8
Rsig sig sigint 20k
Dsig v- sigint D
* additional clamping against positive overvoltage
Dsi2 sigint vmax D
VDsi2max vmax v- 35
* Input resistor (100nA at 20 V)
Rinp sigint 0 200Meg

B12 dvin 0 V=v(sigint)-v(rlo)
B13 dv 0 V=(v(rhi)-v(rlo))/10

Rladder Rhi Rlo 12k

* Comparator C2 (Fig. 14)
BC2 C2 V- V = ternary_fcn(V(L9) - 0.9 > v(Mode), 0, V(v+,v-))
DC2 LB10 C2 D

* power consumption and die temperature rise tj
* emulate standby supply current (5V 2.4mA, 20V 6.1mA typ)
* use a pnp tansistor in saturation
Qload Vp qld ve1 QAmod
RLE1 ve1 v+ 50
* base current for the transistor with gain 10, linear interpolation
BLoad qld v+ I = (2.4m + 2.5e-4 * (V(v+,v-) - 5))/10

* add supply current due to reference loading (p. 11, first section)
* use a pnp tansistor in saturation
Qload2 Vp qld2 ve2 QBmod
RLE2 ve2 v+ 50
* base current for the transistor with gain 40
BAdj qld2 v+ I = -i(Vmref)/10
Vpmeas vp v- 0

* add all power dissipated
* internal power
BPint pges pd1 v = i(Vpmeas) * V(v+, v-)
* power per diode driver
BPD1 pd1 pd2 v = 0.91 * V(LE1, V-) / 50 * V(L1, v-)
BPD2 pd2 pd3 v = 0.91 * V(LE2, V-) / 50 * V(L2, v-)
BPD3 pd3 pd4 v = 0.91 * V(LE3, V-) / 50 * V(L3, v-)
BPD4 pd4 pd5 v = 0.91 * V(LE4, V-) / 50 * V(L4, v-)
BPD5 pd5 pd6 v = 0.91 * V(LE5, V-) / 50 * V(L5, v-)
BPD6 pd6 pd7 v = 0.91 * V(LE6, V-) / 50 * V(L6, v-)
BPD7 pd7 pd8 v = 0.91 * V(LE7, V-) / 50 * V(L7, v-)
BPD8 pd8 pd9 v = 0.91 * V(LE8, V-) / 50 * V(L8, v-)
BPD9 pd9 pd10 v = 0.91 * V(LE9, V-) / 50 * V(L9, v-)
BPD10 pd10 0 v = 0.91 * V(LE10, V-) / 50 * V(L10, v-)

* calculate die (junction) temperature (delta above ambient temperature) by electrothermal calculation:
* resistance->thermal resistance, potential difference->temparature difference
* electrical power->heat current flow, capacitance->thermal capacitance
* total junction temperature the is tj+Ta, e.g. tj + 25°C
BHeat 0 tj I = v(pges)
Rja tj 0 55 ; thermal resistance junction to ambient for DIP package, given in page 3, (3)
Cja tj 0 4.35m ; thermal cap. of Si die, estimated die size 2.6x2.6 mm2

* reference voltage
*Bref Ref Vint V = v(Adj) + 1.28 - i(Vmref) * 1.25 ; (output resistance due to 0.4% voltage deviation at 4mA)
* time constant 1us (estimated)
Rref1 Ref refc 1 ; (output resistance 2 Ohms due to 0.4% voltage deviation at 4mA)
Rref2 refc Rrefint 1
Crefint refc v- 1u
Bref Ref Vint V = v(Adj) + 1.28

* measure the current
Vmref Vint V- 0
* current source for Adj (75uA, see p. 9, IAdj)
* use a pnp tansistor in saturation
Qadj Adj qadjb v+ QAmod
* base current for the transistor with gain 10
IAdj qadjb v+ 7.5u

* clamp mode pin
RModel Mode V- 10meg
RModeh Mode mint 350k
Vmint v+ mint 0.2


.model D D
.model QP NPN(BF=10)
.model QAmod PNP(BF=10)
.model QBmod PNP(BF=40)

.ends lm3914
